US05627203
5-Chloro-2-(pyrrol-1-yl)benzoic acid
18.6 ml (0.143 mol) of 2,5-dimethoxytetrahydrofuran are stirred for 10 minutes with 21.5 g (0.143 mol) of 4-chloropyridine hydrochloride in 600 ml of 1,4-dioxane. 24.6 g (0.143 mol) of 2-amino-4-chlorobenzoic acid are added, and the mixture is heated at reflux for 4 hours. After removal of the dioxane under reduced pressure, the residue is taken up with 1 liter of water and extracted with 800 ml of diethyl ether. The ethereal phase is washed with water and then extracted with 500 ml of a saturated aqueous sodium hydrogen carbonate solution. The aqueous phase is acidified with 10N hydrochloric acid and then extracted with 800 ml of diethyl ether. The ethereal phase is washed with water, decanted off, dried over magnesium sulfate, rendered colourless with animal charcoal and concentrated under reduced pressure to yield the title compound in the form of a grey powder.

reactant | 2,5-dimethoxytetrahydrofuran | 0.143 mol, 18.6 ml | COC1OC(CC1)OC | C6H12O3
reactant | 4-chloropyridine hydrochloride | 0.143 mol, 21.5 g | Cl.ClC1=CC=NC=C1
reactant | 2-amino-4-chlorobenzoic acid | 0.143 mol, 24.6 g | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
solvent | 1,4-dioxane | 600 ml | O1CCOCC1 | C4H8O2
product | 5-Chloro-2-(pyrrol-1-yl)benzoic acid | Yield: 95% | ClC=1C=CC(=C(C(=O)O)C1)N1C=CC=C1 | C11H8ClNO2
